US07691882B2
5-Benzyloxy-2-chloromethyl-pyridine
To a carbon tetrachloride (10 mL) solution of (5-benzyloxy-pyridin-2-yl)-methanol (500 mg) described in Manufacturing Example 127-1-2 was added triphenylphosphine (791 mg), which was refluxed for 19 hours and 35 minutes under nitrogen atmosphere. The reaction mixture was cooled to room temperature and then concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (386 mg).

reactant | (5-benzyloxy-pyridin-2-yl)-methanol | 500 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CO | C13H13NO2
reactant | triphenylphosphine | 791 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Benzyloxy-2-chloromethyl-pyridine | 386 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CCl | C13H12ClNO
